US03965190
13.2 g. (50 mmols) of 1-(3'-trifluoromethylthiophenyl)-2-nitro-propene, 19.6 g. (0.35 g. atom) of iron powder and 0.25 g. of ferric chloride are introduced into a 250 ml. three-necked flask equipped with a mechanical stirrer, a condenser and a dropping funnel, and this mixture is heated on an oil bath at 80°-90°C. 13.5 ml. of concentrated hydrochloric acid are added dropwise, via the dropping funnel, with stirring, over the course of 7 hours, while the temperature is kept at 90°C. The reaction mixture is allowed to cool and rendered alkaline with sodium hydroxide solution. The ketone is then steam distilled. The distillate is extracted twice in succession with 100 ml. of diethyl ether each time. The two ether extracts are combined, dried over sodium sulphate and filtered. The solvent is evaporated from the filtrate in vacuo on a water bath, and the residue is rectified. 7.1 g. (60.5% yield) of 1-(3'-trifluoromethylthiophenyl)-2-propanone are thus obtained as a colourless oil, b.p. 138°-146°C./25-30 mm. Hg., nD23 ° = 1.489.

reactant | 1-(3'-trifluoromethylthiophenyl)-2-nitro-propene | 50 mmols | FC(SC=1C=C(C=CC1)C=C(C)[N+](=O)[O-])(F)F | C10H8F3NO2S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | iron | 0.35 g | [Fe] | Fe
product | 1-(3'-trifluoromethylthiophenyl)-2-propanone | 60.5% yield | FC(SC=1C=C(C=CC1)CC(C)=O)(F)F | C10H9F3OS
